US05151420
6-[4-(1-(2,4-Dihydroxyphenyl)ethylidene)aminophenyl]-4,5-dihydro-5-methylpyridazin-3(2H)one
A mixture of 0.167 g (0.0011 mol) of 2',4'-dihydroxypropiophenone and 0.203 g (0,001 mol) of 6-(4-aminophenyl)-4,5-dihydro-5-methylpyridazin-3(2H)one was heated for 1 h at 140° C. The product was triturated with ethanol and filtered. Yield 0.15 g (45%), m.p. 185°-190° C.

reactant | 2',4'-dihydroxypropiophenone | 0.0011 mol, 0.167 g | OC1=C(C=CC(=C1)O)C(CC)=O | C9H10O3
reactant | 6-(4-aminophenyl)-4,5-dihydro-5-methylpyridazin-3(2H)one | 0,001 mol, 0.203 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
product | 6-[4-(1-(2,4-Dihydroxyphenyl)ethylidene)aminophenyl]-4,5-dihydro-5-methylpyridazin-3(2H)one | OC1=C(C=CC(=C1)O)C(C)=NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C19H19N3O3
